US08877782B2
{6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone
As described for example 89, 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (144 mg, 0.4 mmol), instead of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, was converted, using morpholine instead of 2,2,2-trifluoroethylamine, to the title compound (142 mg, 85%) which was obtained as a white solid. MS: m/e=414.1 [M+H]+.

reactant | 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.4 mmol, 144 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)Cl)=O | C18H15ClN2O4
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | {6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone | 142 mg, 85% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=CC=C(C=N1)C(=O)N1CCOCC1)C | C21H20ClN3O4
